US06617350B2
{(1S,2R)-1-Benzyl-3-[(4-cyano-2,2-dimethyl-butyl)-(4-methoxy-benzenesulfonyl)-amino]-2-hydroxy-propyl}-carbamic acid[1,3]dioxan-5-yl ester
N-(2R,3S)-(3-Amino-2-hydroxy-4-phenyl-butyl)-N-(4-cyano-2,2-dimethyl-butyl)-4-methoxy-benzenesulfonamide hydrochloride (0.111 g, 0.22 mmol) was dissolved in CH2Cl2 and treated with diisopropylethylamine (0.120 ml, 0.67 mmol) and 1,3-dioxan-5-yl 4-nitrophenyl carbonate (0.066 g, 0.25 mmol) at ambient temperature under argon with stirring. After 15 h the reaction mixture was concentrated in vacuo, taken up in EtOAc, washed with sat. aq. NaHCO3, and brine. The organic phase was dried over MgSO4, filtered and solvent removed in vacuo. Purification by column chromatography (1% to 3% MeOH in CH2Cl2) gave 0.084 g of a white solid. MS(ES): 590 (M+1).

reactant | N-(2R,3S)-(3-Amino-2-hydroxy-4-phenyl-butyl)-N-(4-cyano-2,2-dimethyl-butyl)-4-methoxy-benzenesulfonamide hydrochloride | 0.22 mmol, 0.111 g | Cl.N[C@H]([C@@H](CN(S(=O)(=O)C1=CC=C(C=C1)OC)CC(CCC#N)(C)C)O)CC1=CC=CC=C1
reactant | diisopropylethylamine | 0.67 mmol, 0.120 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,3-dioxan-5-yl 4-nitrophenyl carbonate | 0.25 mmol, 0.066 g | C(OC1COCOC1)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H11NO7
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {(1S,2R)-1-Benzyl-3-[(4-cyano-2,2-dimethyl-butyl)-(4-methoxy-benzenesulfonyl)-amino]-2-hydroxy-propyl}-carbamic acid[1,3]dioxan-5-yl ester | 0.084 g | O1COCC(C1)OC(N[C@H]([C@@H](CN(S(=O)(=O)C1=CC=C(C=C1)OC)CC(CCC#N)(C)C)O)CC1=CC=CC=C1)=O | C29H39N3O8S
